US08053440B2
2-(3,5-dimethoxyphenyl)-5,7-dimethoxyquinazolin-4(3H)-one was synthesized from 2-amino-4,6-dimethoxybenzamide and 3,5-dimethoxybenzaldehyde, using the method described for 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one. 2-(3,5-dimethoxyphenyl)-5,7-dimethoxyquinazolin-4(3H)-one (120 mg, 46%) was isolated as a yellow solid. Selected data: MS (m/z): 343.05; MP 270-272° C.

reactant | 2-amino-4,6-dimethoxybenzamide | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 3,5-dimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=NC=CC=C1)=O | C15H13N3O3
product | 2-(3,5-dimethoxyphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 120 mg, 46% | COC=1C=C(C=C(C1)OC)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C18H18N2O5
